.subckt 4bAND E Ain0 Ain1 Ain2 Ain3 Bin0 Bin1 Bin2 Bin3 Y0 Y1 Y2 Y3 VDD GND

    .include GATES.sub
    .include ENABLE.sub

    Xa E Ain0 Ain1 Ain2 Ain3 A0 A1 A2 A3 VDD GND ENABLE
    Xb E Bin0 Bin1 Bin2 Bin3 B0 B1 B2 B3 VDD GND ENABLE

    X1 A0 B0 Y0 VDD GND AND
    X2 A1 B1 Y1 VDD GND AND
    X3 A2 B2 Y2 VDD GND AND
    X4 A3 B3 Y3 VDD GND AND

.ends 4bAND